US04147552
Preparation of 3-(4-ethoxycinnamoyl)-7-methoxycoumarin.
A suspension of 2.18 g 3-acetyl-7-methoxycoumarin and 1.65 g p-ethoxybenzaldehyde in 100 ml alcohol was heated under reflux on a steam bath. Acetonitrile was added until solution was attained. Fifty drops of piperidine were added and the reaction mixture heated under reflux for 90 minutes. An additional fifty drops of piperidine were added and the solution was heated under reflux another hour. The product separated upon cooling and was washed with alcohol before being recrystallized from a mixture of alcohol and acetonitrile.

reactant | 3-acetyl-7-methoxycoumarin | 2.18 g | C(C)(=O)C=1C(OC2=CC(=CC=C2C1)OC)=O | C12H10O4
reactant | p-ethoxybenzaldehyde | 1.65 g | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
catalyst | piperidine | Fifty drops | N1CCCCC1 | C5H11N
catalyst | piperidine | fifty drops | N1CCCCC1 | C5H11N
solvent | Acetonitrile | C(C)#N | C2H3N
product | 3-(4-ethoxycinnamoyl)-7-methoxycoumarin | C(C)OC1=CC=C(C=CC(=O)C=2C(OC3=CC(=CC=C3C2)OC)=O)C=C1 | C21H18O5
